US08871756B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
To a solution of 6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4(3H)-one (10 g, 29.5 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (16.9 g, 38.3 mmol) in N,N-dimethylformamide (140 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (6.7 g, 44.2 mmol) at room temperature. After being stirred for 10 minutes, (3-aminomethyl-oxetan-3-yl)-methylamine (5.1 g, 44.2 mmol) was added. The mixture was stirred for 4 hours at room temperature and diluted with water (150 mL). The separated aqueous layer was extracted with ethyl acetate (100 mL×6). The organic layers were combined and washed with brine, dried over sodium sulfate, and then concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 10% methanol in dichloromethane) to afford 9.0 g of the impure product (purity was 90%). The impure product was purified by preparative HPLC to afford 6.0 g of the desired product as a white solid. MS obsd. (ESI+) [(M+H)+] 438, 1H NMR (400 MHz, CD3OD) δ ppm 8.02 (s, 1 H), 7.82-7.79 (m, 2 H), 7.64 (d, J=1.6 Hz, 1 H), 7.60-7.57 (m, 3 H), 5.44 (d, 1 H), 5.13 (brs, 1 H), 4.77 (brs, 1 H), 4.66-4.59 (m, 4 H), 4.51 (brs, 1 H), 4.24 (s, 2 H), 3.55 (brs, 2 H), 3.44 (s, 2 H), 2.44 (s, 3 H).

reactant | 6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4(3H)-one | 29.5 mmol, 10 g | CC=1C=C2C(NC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)=O)=O | C18H17N3O2S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 38.3 mmol, 16.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 44.2 mmol, 6.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (3-aminomethyl-oxetan-3-yl)-methylamine | 44.2 mmol, 5.1 g | NCC1(COC1)NC | C5H12N2O
solvent | N,N-dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
solvent | water | 150 mL | O | H2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | 9.0 g | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C23H27N5O2S
